US05387685
2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline
The procedure of Example 49 is repeated using 5.22 g of 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene, 3.29 g of 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride. This affords 2.49 g of the desired product as a yellow gum.

reactant | 4-[6-bromo-1-[(4-methylphenyl)thio]heptyl]-1,2-dimethoxybenzene | 5.22 g | BrC(CCCCC(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC)C | C22H29BrO2S
reactant | 6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.29 g | Cl.COC=1C=C2CCNCC2=CC1OC
product | 2-[7-(3,4-Dimethoxyphenyl)-7-[(4-methylphenyl)thio]-heptyl]-1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline | 2.49 g | COC=1C=C(C=CC1OC)C(CCCCCCN1CC2=CC(=C(C=C2CC1)OC)OC)SC1=CC=C(C=C1)C | C33H43NO4S
